US06780996B2
To a solution of 2.5 M n-butyl lithium in tetrahydrofuran (53.6 mL, 134 mmol) in 54 mL of tetrahydrofuran at −78° C. is added dropwise a solution of acetonitrile (7.1 mL, 136 mmol) in 100 mL of tetrahydrofuran. After stirring at −78° C. for 10 min, a solution of ethyl 2-{[(1E)-(dimethylamino)methylidene]amino}-4-fluorobenzoate (14.5 g, 60.9 mmol) in 100 mL of tetrahydrofuran is added over a period of 1.5 h. After stirring at −78° C. for 2 h, the reaction temperature is slowly allowed to warm to −10° C. The mixture is then cooled to −78° C. and acetic acid (18.3 g, 305 mmol) is added dropwise. The reaction mixture is allowed to warm to room temperature and stirred for 3 days. The precipitate is collected by filtration washing with tetrahydrofuran, water, diethyl ether, ethyl acetate and then additional diethyl ether to give 7.95 g of 7-fluoro-4-hydroxyquinoline-3-carbonitrile as an off-white solid, mp>250° C.

reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | acetonitrile | 136 mmol, 7.1 mL | C(C)#N | C2H3N
reactant | ethyl 2-{[(1E)-(dimethylamino)methylidene]amino}-4-fluorobenzoate | 60.9 mmol, 14.5 g | CN(C)\C=N\C1=C(C(=O)OCC)C=CC(=C1)F | C12H15FN2O2
reactant | acetic acid | 305 mmol, 18.3 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 54 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 134 mmol, 53.6 mL | O1CCCC1 | C4H8O
product | 7-fluoro-4-hydroxyquinoline-3-carbonitrile | 7.95 g | FC1=CC=C2C(=C(C=NC2=C1)C#N)O | C10H5FN2O
